US07750184B2
Preparation of N-(4-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-2-methyl-phenyl)-methanesulfonamide
To a 0° C. mixture of 1-{4-[1-(4-amino-3-methyl-phenyl)-1-ethyl-propyl]-2-methyl-phenoxy}-3,3-dimethyl-butan-2-one (763 mg, 2 mmol), triethylamine (0.42 mL, 3 mmol) and CH2Cl2 (7 mL) is added methanesulfonyl chloride (0.155 mL, 2 mmol). The reaction is warmed to RT and stirred for 3 h. The reaction is diluted with CH2Cl2 dichloromethane and washed with 0.2 N HCl. The organic phase is Na2SO4 dried, concentrated, and chromatogrpahed (0% to 25% EtOAc/Hex) to give the title compound (800 mg, 87%).

reactant | 1-{4-[1-(4-amino-3-methyl-phenyl)-1-ethyl-propyl]-2-methyl-phenoxy}-3,3-dimethyl-butan-2-one | 2 mmol, 763 mg | NC1=C(C=C(C=C1)C(CC)(CC)C1=CC(=C(OCC(C(C)(C)C)=O)C=C1)C)C | C25H35NO2
reactant | triethylamine | 3 mmol, 0.42 mL | C(C)N(CC)CC | C6H15N
reactant | CH2Cl2 | 7 mL | C(Cl)Cl | CH2Cl2
reactant | methanesulfonyl chloride | 2 mmol, 0.155 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 dichloromethane | C(Cl)Cl.ClCCl | 2CH2Cl2
product | N-(4-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-2-methyl-phenyl)-methanesulfonamide | 800 mg, 87% | CC(C(COC1=C(C=C(C=C1)C(CC)(CC)C1=CC(=C(C=C1)NS(=O)(=O)C)C)C)=O)(C)C | C26H37NO4S
